US07375227B2
392D. (3-Quinolin-4-yl-ureido)-acetic acid
[3-(2-Methyl-quinolin-4-yl)-ureido]-acetic acid ethyl ester (7.2 g, 25 mmol) is suspended in 6N aqueous HCl (250 mL), and the mixture is heated at 80° C. for 15 h. The mixture is cooled, filtered from the resulting precipitate and the solid dried to provide the title compound as hydrochloride salt.

reactant | [3-(2-Methyl-quinolin-4-yl)-ureido]-acetic acid ethyl ester | 25 mmol, 7.2 g | C(C)OC(CNC(=O)NC1=CC(=NC2=CC=CC=C12)C)=O | C15H17N3O3
solvent | HCl | 6N, 250 mL | Cl | ClH
product | (3-Quinolin-4-yl-ureido)-acetic acid | N1=CC=C(C2=CC=CC=C12)NC(NCC(=O)O)=O | C12H11N3O3
